US04407930
I. 2-Nitroresorcinol ditosylate
To a stirred solution of 2-nitroresorcinol (31.0 g, 0.2 mole) and p-toluenesulfonyl(tosyl) chloride (83.9 g, 0.44 mole) in THF (500 ml) at ≤15° C. was added triethylamine (84 ml, 0.6 mole) at such a rate that the temperature did not exceed 15° C. The mixture was stirred two additional hours at ambient temperature. The reaction was then poured into ice water (5 liters) and hydrochloric acid (100 ml) with stirring. The resulting precipitate was collected, air dried, and recrystallized from acetonitrile (250 ml) to yield 85.6 g (92.3 percent) of a white crystalline product. Thin layer chromatography (TLC) showed the product to be pure.

reactant | 2-nitroresorcinol | 0.2 mole, 31.0 g | [N+](=O)([O-])C1=C(O)C=CC=C1O | C6H5NO4
reactant | p-toluenesulfonyl(tosyl) chloride | 0.44 mole, 83.9 g | C=1(C(=CC=CC1)S(=O)(=O)C1(CC=C(S(=O)(=O)Cl)C=C1)C)C | C14H15ClO4S2
reactant | triethylamine | 0.6 mole, 84 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-Nitroresorcinol ditosylate | 85.6 g, 92.3 percent | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=C(C(OS(=O)(=O)C2=CC=C(C)C=C2)=CC=C1)[N+](=O)[O-] | C20H17NO8S2
